US07855194B2
Step 2: 4-(5-Pyridin-3-yl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To a degassed solution of 4-(5-bromo-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.87 g, 2.44 mmol, 1.0 equiv) in dimethoxyethane (10 mL) was added pyridyl-3-boronic acid (0.60 g, 4.87 mmol, 2.0 equiv; commercially available), tetrakis(triphenylphosphine) palladium(0) (84.6 mg, 0.07 mmol, 0.03 equiv) and an aqueous solution of 2 M sodium carbonate (5.6 mL) and the reaction mixture heated by microwave irradiation under Ar to 130° C. for 30 min. The crude reaction mixture was extracted with ethyl acetate (3×50 mL) and the combined organic phases washed with a sat. solution of sodium chloride (2×50 mL). The organic phase was dried over MgSO4, concentrated by evaporation under reduced pressure and the residue purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of dichloromethane/methanol providing 0.68 g (76%) of the title compound. MS (ISP): 356.3 [M+H]+.

reactant | 4-(5-bromo-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.44 mmol, 0.87 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=N1)Br | C14H21BrN4O2
reactant | pyridyl-3-boronic acid | B(C1=CN=CC=C1)(O)O | C5H6BNO2
reactant | sodium carbonate | 2 M, 5.6 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 10 mL | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.07 mmol, 84.6 mg, 0.03 equiv | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(5-Pyridin-3-yl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=N1)C=1C=NC=CC1 | C19H25N5O2
